US06949542B2
3-[3-(6-Cyano-pyridin-3-yl)-phenyl]-3-oxo-propionic acid tert-butyl ester
The title compound was prepared from 3-(6-cyano-pyridin-3-yl)-benzoic acid methyl ester [prepared by the following procedure: A mixture of 3-carboxyphenylboronic acid (2.08 g, 12.51 mmol) and 5-bromo-pyridine-2-carbonitrile [CAS-No. 97483-77-7] (2.08 g, 11.37 mmol) in acetonitrile (55 ml) and 0.4M Na2CO3-solution (55 ml) was degassed and Pd(Ph3P)4 (657 mg, 0.57 mmol) was added. The reaction mixture was refluxed for 18 h and evaporated to dryness [Synlett 2000 (6), 829-831]. The residue was suspended in MeOH (300 ml), SOCl2 (2.61 ml, 36 mmol) was added dropwise at 23° C. and the reaction mixture was stirred at 23° C. for 3 days. Concentrated in vacuum to about 100 mL, diluted with EtOAc, washed with sat. NaHCO3-solution and brine, dried over Na2SO4. Removal of the solvent in vacuum left a brown residue, which was purified by silica gel column chromatography with cyclohexane/EtOAc.] (1.38 g, 5.79 mmol) by treatment with lithium tert-butyl acetate according to general procedure K (method b). Obtained as an orange oil (530 mg).

reactant | 3-(6-cyano-pyridin-3-yl)-benzoic acid methyl ester | COC(C1=CC(=CC=C1)C=1C=NC(=CC1)C#N)=O | C14H10N2O2
reactant | 3-carboxyphenylboronic acid | 12.51 mmol, 2.08 g | C(=O)(O)C=1C=C(C=CC1)B(O)O | C7H7BO4
reactant | 5-bromo-pyridine-2-carbonitrile | 11.37 mmol, 2.08 g | BrC=1C=CC(=NC1)C#N | C6H3BrN2
reactant | SOCl2 | 36 mmol, 2.61 ml | O=S(Cl)Cl | Cl2OS
reactant | acetonitrile | 55 ml | C(C)#N | C2H3N
solvent | Na2CO3 | 0.4M, 55 ml | C(=O)([O-])[O-].[Na+].[Na+]
catalyst | Pd(Ph3P)4 | 0.57 mmol, 657 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 3-[3-(6-Cyano-pyridin-3-yl)-phenyl]-3-oxo-propionic acid tert-butyl ester | C(C)(C)(C)OC(CC(=O)C1=CC(=CC=C1)C=1C=NC(=CC1)C#N)=O | C19H18N2O3
